US06783557B1
e) Preparation of 3-[3-(3-amino-5-methylpyrazolo-[1,5-a]pyrimidin-7-ylamino)propyl]-1-(2-hydroxyethyl)-3H-imidazol-1-ium chloride dihydrochloride
3.5 g of 1-(2-hydroxyethyl)-3-[3-(5-methyl-3-nitropyrazolo[1,5-a]pyrimidin-7-ylamino)propyl]-3H-imidazol-1-ium chloride in 150 cc of ethanol and then 0.39 g of 5% palladium on carbon (containing 50% water) were introduced into a 250 cc hydrogenator. Between 11 and 12 bars' pressure of hydrogen were introduced into the reactor and the reaction medium was brought to 60° C. After 4 hours of reaction, the catalyst was filtered over Celite and a stream of gaseous hydrochloric acid was passed through the filtrate. The reaction medium was poured into 100 cc of diisopropyl ether. After stirring, the precipitate was filtered off. It was washed with diisopropyl ether and dried under vacuum over phosphoric anhydride. This gave 3.3 g of a highly hygroscopic product. A 3% aqueous solution of this product was formed, and was lyophilized. The resulting solid was taken up at reflux in 30 cc of absolute ethanol. This gives 2.25 g of 3-[3-(3-amino-5-methylpyrazolo[1,5-a]pyrimdin-7-ylamino)propyl]-1-(2-hydroxyethyl)-3H-imidazol-1-ium chloride in the form of the dihydrochloride, after drying under vacuum over phosphoric anhydride, with a yield of 85%, whose analysis calculated for C15H22N7OCl, 2HCl (MW=424.76 g) was as follows:

reactant | 1-(2-hydroxyethyl)-3-[3-(5-methyl-3-nitropyrazolo[1,5-a]pyrimidin-7-ylamino)propyl]-3H-imidazol-1-ium chloride | 3.5 g | [Cl-].OCC[N+]1=CN(C=C1)CCCNC1=CC(=NC=2N1N=CC2[N+](=O)[O-])C
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 150 cc | C(C)O | C2H6O
catalyst | palladium on carbon | 0.39 g | [Pd] | Pd
product | 3-[3-(3-amino-5-methylpyrazolo-[1,5-a]pyrimidin-7-ylamino)propyl]-1-(2-hydroxyethyl)-3H-imidazol-1-ium chloride dihydrochloride | 3% | Cl.Cl.[Cl-].NC=1C=NN2C1N=C(C=C2NCCCN2C=[N+](C=C2)CCO)C | InChI=1S/C15H22N7O.3ClH/c1-12-9-14(22-15(19-12)13(16)10-18-22)17-3-2-4-20-5-6-21(11-20)7-8-23;;;/h5-6,9-11,17,23H,2-4,7-8,16H2,1H3;3*1H/q+1;;;/p-1
